US04165378
A solution of benzoic anhydride (0.73 g.) in pyridine (5 ml.) was added to a stirred suspension of 2-guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole (1.0 g.) in pyridine (5 ml.). The mixture was stirred for 24 hours, diluted with water (50 ml.) and the resulting white suspension filtered. The residual white solid was recrystallized first from aqueous methanol and then from acetone/cyclohexane to give 2-(2-benzoylguanidino)-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole, m.p. 179°-181° C.

reactant | benzoic anhydride | 0.73 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 2-guanidino-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | 1.0 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(=NC#N)NC | C10H16N8S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 2-(2-benzoylguanidino)-4-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]thiazole | C(C1=CC=CC=C1)(=O)N=C(NC=1SC=C(N1)CSCCNC(=NC#N)NC)N | C17H20N8OS2
